### ISSUE TITLE
`simp` perm does not unfold reducibles

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1815]
```lean
variable {α : Type _} [Mul α] [Inhabited α]

abbrev Left (a : α) : α := a * default
abbrev Right (a : α): α := default * a

theorem mul_comm (a b : α) : a * b = b * a := sorry

set_option trace.Meta.Tactic.simp true
example (a : α) : Left a = Right a := by
  simp [mul_comm] -- doesn't solve
```
We can see the issue from the trace:
```lean
[Meta.Tactic.simp.rewrite] @mul_comm:1000:perm, perm rejected Left a ==> default * a 
[Meta.Tactic.simp.rewrite] @mul_comm:1000:perm, perm rejected Right a ==> a * default 
```
Neither side is rewritten because the reducible definitions mess up the term order.

**Comment by leodemoura** [comment]
We can address this issue by reducing terms in our term ordering predicate. However, is it worth it? It feels like extra overhead for an example that is not even clear whether `simp` should solve it. I think it is reasonable to write 
```
example (a : α) : Left a = Right a := by
  simp [Left, Right, mul_comm] 
```

**Comment by digama0** [comment]
In the [original bug report](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp!.20does.20not.20unfold.20abbrevs/near/309107410) this wasn't working in the presence of `autoUnfold := true`. But I think it breaks the model in this case to have `simp` unfolding reducibles in some places but not others. Rather than unfolding reducibles in this example, I think it would make more sense to just use the substituted expressions, such that `perm rejected =>` is always guaranteed to be looking at two expressions that are actually syntactically permutations of each other, since it apparently decided that they need permutation reasoning. This just looks like buggy behavior because we have two terms that are both less and greater than each other.

**Comment by leodemoura** [comment]
@digama0 Note that this issue is related to the discussion at #1814.
